US06387919B1
2-Oxo-3-[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indol-5-carboxylic acid (furan-2-ylmethyl)-amide (Z-isomer)
The title compound was prepared from 2-oxo-3-[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid pentafluorophenyl ester and 2-aminomethylfuran according to Procedure K: mp>250° C.; 1H NMR (DMSO-d6): δ 4.51 (d, J=5.5 Hz, 2H), 6.31 (d, J=3 Hz, 1H), 6.44 (d, J=3 Hz), 702 (d, J=8.3, 1H), 7.30 (s, 2H), 7.66 (m, 3H), 7.88 (m, 3H), 8.18 (s, 1H), 9.02 (br t, J=5.5 Hz, 1H), 11.4 (s, 1H), 12.8 (s, 1H); APCI−MS m/z 438 (M−H)−; Anal. Calcd for C20H17N5O5S.1/2 H2O: C, 53.57; H, 4.05; N, 15.62; S, 7.15. Found: C, 53.91; H, 4.01; N, 15.13; S, 6.78.

reactant | 2-oxo-3-[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(=O)C=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(N)(=O)=O)F)F)F)F | C21H11F5N4O5S
reactant | 2-aminomethylfuran | NCC=1OC=CC1 | C5H7NO
solvent | H2O | O | H2O
product | 2-Oxo-3-[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indol-5-carboxylic acid (furan-2-ylmethyl)-amide | O1C(=CC=C1)CNC(=O)C=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(N)(=O)=O | C20H17N5O5S
